US06645971B1
(a) Preparation of 3-(Piperidin-4-yl)-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone
To a solution of 1.40 g (3.25 mmol) of 3-(1-benzylpiperidin-4-yl)-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone in methylene chloride, α-chloroethyl chloroformate was added dropwise under ice-cooling and stirred for one hour. After concentration under reduced pressure, the residue was dissolved with 28 ml of methanol and stirred at room temperature for 2 hours and under ice-cooling for one hour. The precipitated crystals were collected to give 1.08 g (3.16 mmol) of the title compound as colorless crystal.

reactant | 3-(1-benzylpiperidin-4-yl)-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone | 3.25 mmol, 1.40 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=C(C=C1)Cl)=O | C26H26ClN3O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | α-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
product | 3-(Piperidin-4-yl)-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone | 3.16 mmol, 1.08 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=C(C=C1)Cl)=O | C19H20ClN3O
